US06391874B1
(1-Benzyl-1H-indazol-5-yl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride
The title compound was prepared according to Procedure A from 1-benzyl-1H-indazol-5-ylamine and 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.96(1H,bs), 9.58(1H,s), 8.91(1H,s), 8.69(1H,dd), 8.22)1H,s), 8.14(1H,d), 8.10(1H,d), 8.85(1H,d), 8.67(1H,dd), 7.30(5H,m), 5.71(2H,s); m/z (M+1+) 488.

reactant | 1-benzyl-1H-indazol-5-ylamine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)N | C14H13N3
reactant | 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C(F)(F)F | C11H4ClF3N4O
product | (1-Benzyl-1H-indazol-5-yl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C(F)(F)F | InChI=1S/C25H16F3N7O.ClH/c26-25(27,28)24-34-33-23(36-24)16-6-8-20-19(11-16)22(30-14-29-20)32-18-7-9-21-17(10-18)12-31-35(21)13-15-4-2-1-3-5-15;/h1-12,14H,13H2,(H,29,30,32);1H
